US06444709B1
b) [5-(3-Bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)pentyloxy]tert-butyldimethylsilane
The acetate obtained above is saponified and the resulting hydroxyl group is then protected according to the following procedure: tert-Butyldimethylsilyl chloride (2.64 g) is added to a mixture of 5-(3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)pentan-1-ol (4.3 g, 11.7 mmol) and 80% sodium hydride (422 mg) in THF (20 ml). The mixture is stirred at room temperature for 2 h. The solution is poured into a mixture of water and ethyl acetate. The organic phase is washed twice with water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The product is purified by flash chromatography on a column of silica.

reactant | acetate | C(C)(=O)[O-]
reactant | tert-Butyldimethylsilyl chloride | 2.64 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 5-(3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)pentan-1-ol | 11.7 mmol, 4.3 g | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCCCCCO | C19H29BrO2
reactant | sodium hydride | 422 mg | [H-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [5-(3-Bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)pentyloxy]tert-butyldimethylsilane | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCCCCCO[Si](C)(C)C(C)(C)C | C25H43BrO2Si
